US07816522B2
(1f) 2-(3-{(2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid
After adding 312 mg of sodium cyanotrihydroborate, 0.114 ml of acetic acid and 1.5 g of MS3A to a solution of 539 mg of 2-(3-{(2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid in 40 ml of a methanol:THF=1:1 mixed solvent, the mixture was stirred at room temperature for 48 hours. Next, 0.7 ml of 5N hydrochloric acid was added, the reaction mixture was stirred at room temperature for 10 minutes, ethyl acetate and water were added, and filtration was performed with celite. The aqueous layer was extracted with 50 ml of ethyl acetate and dried over anhydrous sodium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (504 mg) as a light yellow solid.

reactant | sodium cyanotrihydroborate | 312 mg | [B-]C#N.[Na+]
reactant | acetic acid | 0.114 ml | C(C)(=O)O | C2H4O2
reactant | 2-(3-{(2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | 539 mg | FC1=C(C=C(C(=C1)OC)OC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)=NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H21FN6O6
reactant | hydrochloric acid | 5N, 0.7 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-{(2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | 504 mg | FC1=C(C=C(C(=C1)OC)OC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H23FN6O6
